US05147776
D-mannitol was obtained commercially (Pfanstiehl Laboratories, Waukegan, IL). 2,5-anhydro-D-mannitol was prepared by deamination and reduction of D-glucosamine according to a known procedure of Bera, D. C., Foster, A. B. and Stacey, N., J. Chem. Soc. (1956) p. 4531-4541. The fructose 6-phosphate site of phosphofructokinase. J. Biol. Chem. (1974) 249:5749-5754.

reactant | D-glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
reactant | fructose 6-phosphate | P(=O)(O)(O)OC[C@H]([C@H]([C@@H](C(CO)=O)O)O)O | C6H13O9P
product | 2,5-anhydro-D-mannitol | C([C@@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)O | C6H12O5
